US06727264B1
N-{3-[1-(4-HYDROXYBUTYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 4-chloro-1-butanol and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 319.3 (M+H)+.

reactant | 4-chloro-1-butanol | ClCCCCO | C4H9ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-(4-HYDROXYBUTYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | OCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C19H30N2O2
